*****************************************************************
* NXP BUK9Y41-80E
*
* Polarity N-Channel
* Ratings 80V/4.500000E-002OHMS/23.8863368219384A
*
* Date Created Tue Feb 05 08:37:17 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9Y41-80E DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 3e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 5.3e-10
RLS2 SOURCE 8 1.33203528512207
RLS1 8 7 0.0002

RDS 7 4 80000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0307716489136005 TC=0.00550123959294057,1.52367773740889E-05
RBD 9 4 0.00591956858757411 TC=0.00550123959294057,1.52367773740889E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 100000000
CGS 2 6 9.81891080349016e-10
RG 1 2 1.99663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	1136.68
+ -16	1135.95
+ -10	1132.94
+ -5	1124.11
+ -4	1118.49
+ -3	1102.75
+ -2	894.396
+ -1	524.858
+ -0.5	285.249
+ -0.2	175.263
+ -0.1	173.862
+ 0	157.73506
+ 0.1	136.91304
+ 0.2	136.76724
+ 0.5	118.34036
+ 1	93.38373
+ 2	72.9064
+ 3	70.31661
+ 4	69.63498
+ 5	68.78165
+ 6	67.48349
+ 8	65.13252
+ 10	63.33834
+ 12	61.82354
+ 15	59.81095
+ 20	56.90759
+ 30	52.19329
+ 50	46.40054
+ 64	44.07106



.MODEL MINT NMOS(Vto=2.02525674758715 Kp=7.267848e+001 Nfs=410000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)


.MODEL DBD D(Bv=88 Ibv=2.500000E-004 Rs=1E-6 Is=2.5e-13
+ N=1 M=0.67 VJ=0.7 Fc=0.5 Cjo=4.456432e-10 Tt=1.5568e-08)

.ENDS

